US07488755B2
(c) 4-acetylphenyl 3-tert-butoxycarbonyl-2,2-dimethyloxazolidine-4-(R)-carboxylate
At 0° C., 3-tert-butoxycarbonyl-2,2-dimethyloxazolidine-4-(R)-carboxylic acid (1.0 g) is dissolved in ethyl acetate (25 ml), dicyclohexylcarbodiimide (DCC; 1.26 g) is then added and the reaction mixture is subjected to agitation for 45 minutes at 0° C. Dimethylaminopyridine (DMAP; 100 mg) and 4′-hydroxyacetophenone (565 mg) are successively added, the reaction mixture is then left to return to room temperature. After 5 hours of agitation, the mixture is filtered and the filtrate is washed with a sodium hydrogen carbonate saturated solution, then with a sodium chloride saturated solution. The organic phase is dried on MgSO4, filtered and concentrated. The obtained orange oil is purified by chromatography on silica to obtain the desired product as a transparent oil (940 mg).

reactant | 3-tert-butoxycarbonyl-2,2-dimethyloxazolidine-4-(R)-carboxylic acid | 1.0 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C(=O)O)(C)C | C11H19NO5
reactant | dicyclohexylcarbodiimide | 1.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Dimethylaminopyridine | 100 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4′-hydroxyacetophenone | 565 mg | OC1=CC=C(C=C1)C(C)=O | C8H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-acetylphenyl 3-tert-butoxycarbonyl-2,2-dimethyloxazolidine-4-(R)-carboxylate | 940 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C(=O)OC1=CC=C(C=C1)C(C)=O)(C)C | C19H25NO6
